US09216972B2
To a stirred mixture of resorcinol (10 g, 91 mmol) and 3-chloropropanoic acid (9.95 g, 92 mmol) was added trifluoromethanesulfonic acid (50 g, 333 mmol) in one portion. The solution was warmed to 80° C. for 30 min, cooled to room temperature over 15 min, and poured into dichloromethane (200 mL). The resulting solution was slowly poured into water (200 mL), and the layers were separated. The aqueous layer was extracted with dichloromethane (2×100 mL), dried over anhydrous sodium sulfate, and filtered. Concentration under reduced pressure afforded 3-chloro-1-(2,4-dihydroxyphenyl)propan-1-one (13.62 g, 67.9 mmol, 74.8% yield) as an orange semi-solid. The compound was used without any further purification. LC/MS M+1=200; 1H NMR (400 MHz, CDCl3) δ ppm 12.39 (1H, s), 7.56 (1H, d, J=8.58 Hz), 7.19 (1H, s), 6.17-6.49 (1H, m), 5.23 (1H, s), 3.78-4.01 (2H, m), and 3.34 (2H, t, J=6.71 Hz).

reactant | resorcinol | 91 mmol, 10 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 3-chloropropanoic acid | 92 mmol, 9.95 g | ClCCC(=O)O | C3H5ClO2
reactant | trifluoromethanesulfonic acid | 333 mmol, 50 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | water | 200 mL | O | H2O
product | 3-chloro-1-(2,4-dihydroxyphenyl)propan-1-one | 67.9 mmol, 13.62 g, 74.8% yield | ClCCC(=O)C1=C(C=C(C=C1)O)O | C9H9ClO3
